US04636509
5-Chloro-1-(4-methylphenacyl)pyrimidin-2-one
A suspension of 5-chloropyrimidin-2-one hydrochloride (501 mg) and 2-bromo-4-methylacetophenone (638 mg) in triethylamine (1 ml) and ethanol (20 ml) was stirred at ambient temperature for one and three quarter hours, then cooled and the solid filtered off. The filtrate was evaporated, the residue was diluted with water (100 ml) and the product was extracted with ethyl acetate (3×50 ml). This was combined with the solid and crystallised from acetone: yield 306 mg, m.p. 214°-217° dec: λmaxEtOH 253 nm (ε 19760), 332 nm (ε 2620), λinf 232 nm (ε 11040).

reactant | 5-chloropyrimidin-2-one hydrochloride | 501 mg | Cl.ClC=1C=NC(NC1)=O
reactant | 2-bromo-4-methylacetophenone | 638 mg | CC1=CC=C(C=C1)C(=O)CBr | C9H9BrO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-Chloro-1-(4-methylphenacyl)pyrimidin-2-one | ClC=1C=NC(N(C1)CC(=O)C1=CC=C(C=C1)C)=O | C13H11ClN2O2
